US07141583B2
4-(2-Fluoro-4-benzyloxycarbonylaminophenyl)-3,6-dihydro-2H-thiopyran
4-(2-Fluoro-4-aminophenyl)-3,6-dihydro-2H-thiopyran (9.8 g, 46.8 mM) was dissolved in dry dichloromethane (196 ml), pyridine (6.23 g, 79.1 mM) added, and the mixture stirred under nitrogen at −20°. A solution of benzyl chloroformate (9.54 g, 53.9 mM) dissolved in dry dichloromethane (25 ml) was added dropwise, and the mixture left to warm to ambient temperature over 18 hours. The mixture was washed with 1M hydrochloric acid (200 ml), then brine (100 ml), dried (magnesium sulfate), filtered and evaporated to a small volume. The addition of isohexane (300 ml) precipitated the desired product (15.5 g).

reactant | 4-(2-Fluoro-4-aminophenyl)-3,6-dihydro-2H-thiopyran | 46.8 mM, 9.8 g | FC1=C(C=CC(=C1)N)C=1CCSCC1 | C11H12FNS
reactant | pyridine | 79.1 mM, 6.23 g | N1=CC=CC=C1 | C5H5N
reactant | benzyl chloroformate | 53.9 mM, 9.54 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | dichloromethane | 196 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | 4-(2-Fluoro-4-benzyloxycarbonylaminophenyl)-3,6-dihydro-2H-thiopyran | FC1=C(C=CC(=C1)NC(=O)OCC1=CC=CC=C1)C=1CCSCC1 | C19H18FNO2S
